US04686220
N-[1,4-Dihydro-1,4-dioxo-3-[4-(phenylmethyl)-1-piperazinyl]-2-naphthalenyl]acetamide
A mixture of 500 mg of 2-acetylamino-3-chloro-1,4-naphthoquinone, 880 mg of N-benzylpiperazine and 40 ml of absolute ethanol was heated at reflux for 3 hours, then the solvent was removed. The remainder was passed through a small plug of silica gel and eluted with chloroform. The eluate was concentrated to a solid which was recrystallized from dichloromethane/hexane, giving 700 mg of the desired product, mp 153°-155° C.

reactant | 2-acetylamino-3-chloro-1,4-naphthoquinone | 500 mg | C(C)(=O)NC=1C(C2=CC=CC=C2C(C1Cl)=O)=O | C12H8ClNO3
reactant | N-benzylpiperazine | 880 mg | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | N-[1,4-Dihydro-1,4-dioxo-3-[4-(phenylmethyl)-1-piperazinyl]-2-naphthalenyl]acetamide | 700 mg | O=C1C(=C(C(C2=CC=CC=C12)=O)N1CCN(CC1)CC1=CC=CC=C1)NC(C)=O | C23H23N3O3
